US04059641
(E,E)-11,11-Diethoxy-2,6-dimethyl-10-oxo-2,6-undecadien-1-ol
In 70 ml of 95 % ethanol was dissolved 7.4 g of 1,1-diethoxy-6,10-dimethyl-2-oxo-5,9-undecadien, and the resulting solution was, after addition of 1.7 g of selenium oxide, refluxed for 15 minutes. The ethanol was removed by evaporation, and the residue was, after addition of water, extracted with ether. The ethereal extract was washed with an aqueous sodium hydrogencarbonate solution and dried. The solvent was then removed by evaporation to leave an oil, and the oil was purified by the silica gel column chromatography to yield 3.0 g of the desired product.

reactant | 1,1-diethoxy-6,10-dimethyl-2-oxo-5,9-undecadien | 7.4 g | C(C)OC(C(CCC=C(CCC=C(C)C)C)=O)OCC | C17H30O3
reactant | selenium oxide | 1.7 g | [Se]=O | OSe
solvent | ethanol | 70 ml | C(C)O | C2H6O
product | (E,E)-11,11-Diethoxy-2,6-dimethyl-10-oxo-2,6-undecadien-1-ol | 3.0 g | C(C)OC(C(CC/C=C(/CC/C=C(/CO)\C)\C)=O)OCC | C17H30O4
